US07893056B2
To a solution of [(2R)-2-(cyclopentylmethyl)-3-(2-{6-[(2R)-2,4-dimethyl-1-piperazinyl]-5-fluoro-2-methyl-4-pyrimidinyl}hydrazino)-3-oxopropyl][(phenylmethyl)oxy]formamide (15.60 g, 28.8 mmol) in methanol (115 mL) was added Pd/C (50% water, 3.1 g). The mixture was hydrogenated under balloon pressure for 2 h, and then filtered through a glass fiber filter. The solution was then concentrated in vacuo and azeotroped with EtOAc (100 mL). The resulting solid was triturated with 70% EtOAc in hexanes, and collected by vacuum filtration. The supernatant was concentrated in vacuo and crystallized from EtOAc-hexanes, and the solid was combined with the first crop of material. The combined solid was dried overnight under high vacuum to give [(2R)-2-(cyclopentylmethyl)-3-(2-{6-[(2R)-2,4-dimethyl-1-piperazinyl]-5-fluoro-2-methyl-4-pyrimidinyl}hydrazino)-3-oxopropyl]hydroxyformamide (8.15 g, 18.05 mmol, 62.7% yield) as a white solid. LCMS: (M+H)+: 451.8.

reactant | [(2R)-2-(cyclopentylmethyl)-3-(2-{6-[(2R)-2,4-dimethyl-1-piperazinyl]-5-fluoro-2-methyl-4-pyrimidinyl}hydrazino)-3-oxopropyl][(phenylmethyl)oxy]formamide | 28.8 mmol, 15.60 g | C1(CCCC1)C[C@H](CN(C=O)OCC1=CC=CC=C1)C(=O)NNC1=NC(=NC(=C1F)N1[C@@H](CN(CC1)C)C)C | C28H40FN7O3
solvent | methanol | 115 mL | CO | CH4O
catalyst | Pd/C | 3.1 g | [Pd] | Pd
product | [(2R)-2-(cyclopentylmethyl)-3-(2-{6-[(2R)-2,4-dimethyl-1-piperazinyl]-5-fluoro-2-methyl-4-pyrimidinyl}hydrazino)-3-oxopropyl]hydroxyformamide | 18.05 mmol, 8.15 g, 62.7% yield | C1(CCCC1)C[C@H](CN(C=O)O)C(=O)NNC1=NC(=NC(=C1F)N1[C@@H](CN(CC1)C)C)C | C21H34FN7O3
